US07435823B2
Preparation of tert-butyl 3,3-dimethyl-6-nitroindoline-1-carboxylate
To a cooled (ice-bath) solution of 3,3-dimethyl-6-nitroindoline (U.S. Patent Publication No. 2003/0203922) (846 mg, 4.4 mmol) in CH2Cl2 (6 mL), triethylamine (2.45 mL, 17.6 mmol) and BOC anhydride (1.01 mL, 4.4 mmol) were added. The reaction mixture was stirred and allowed to warm to RT for 18 h. The mixture was washed with water and brine, dried with Na2SO4, filtered and evaporated. The mixture was purified by column chromatography (using EtOAc:hexanes as the eluent) and the title compound isolated as a brown solid.

reactant | 3,3-dimethyl-6-nitroindoline | 4.4 mmol, 846 mg | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
reactant | triethylamine | 17.6 mmol, 2.45 mL | C(C)N(CC)CC | C6H15N
reactant | BOC anhydride | 4.4 mmol, 1.01 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3,3-dimethyl-6-nitroindoline-1-carboxylate | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])C(=O)OC(C)(C)C)C | C15H20N2O4
